US04426524
A solution of 3.8 g (0.013 mol) of 3-(2-bromo-5-furanyl)-phenylmethyl acetate and 0.85 g (0.019 mol) of potassium hydroxide in 100 mL of methanol was stirred for 75 minutes at ambient temperature. The reaction mixture was diluted with 200 mL of water, saturated with solid sodium chloride, and extracted with three portions of 150 mL each of chloroform. The combined extracts were dried with magnesium sulfate, filtered, and the filtrate concentrated under reduced pressure to give 2.9 g of 3-(2-bromo-5-furanyl)phenylmethanol.

reactant | 3-(2-bromo-5-furanyl)-phenylmethyl acetate | 0.013 mol, 3.8 g | C(C)(=O)OCC1=CC(=CC=C1)C1=CC=C(O1)Br | C13H11BrO3
reactant | potassium hydroxide | 0.019 mol, 0.85 g | [OH-].[K+]
solvent | methanol | 100 mL | CO | CH4O
solvent | water | 200 mL | O | H2O
solvent | sodium chloride | [Cl-].[Na+]
product | 3-(2-bromo-5-furanyl)phenylmethanol | 2.9 g | BrC=1OC(=CC1)C=1C=C(C=CC1)CO | C11H9BrO2
